US07829560B2
3-Fluoro-5-morpholin-4-yl-N-[4-({2-[(2-morpholin-4-ylethyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]benzamide (Compound B326).
Compound is prepared from 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide and 2-morpholin-4-yl-ethylamine according to conditions described in general procedure C. Mp: 112-114° C.; 1H NMR (400 MHz, CDCl3) δ 2.33-2.43 (m, 6 H), 3.25-3.31 (m, 6 H), 3.65-3.71 (m, 4H), 3.84-3.89 (m, 4 H), 5.54 (s, 1 H), 6.08-6.10 (m, 1 H), 6.77-6.80 (m, 1 H), 7.09 (d, J=8.0 Hz, 1 H), 7.27-7.33 (m, 2 H), 7.50-7.57 (m, 2 H), 7.92-7.97 (m, 2 H), 8.13-8.17 (m, 2 H).

reactant | 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCOCC1 | C26H23FN4O5S
reactant | 2-morpholin-4-yl-ethylamine | N1(CCOCC1)CCN | C6H14N2O
product | 3-Fluoro-5-morpholin-4-yl-N-[4-({2-[(2-morpholin-4-ylethyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)NCCN2CCOCC2)C=C(C1)N1CCOCC1 | C31H33FN6O4
